US07435837B2
(±)-{[7-(2,5-dimethoxyphenyl)-5-methoxy-2,3-dihydro-1-benzofuran-2-yl]methyl}methylamine
The title compound was prepared (0.032 g, 27%) following the general procedure of Example 390 as a white solid, hydrochloride salt from (±)-{[7-(2,5-dimethoxyphenyl)-5-methoxy-2,3-dihydro-1-benzofuran-2-yl]methyl}4-methylbenzenesulfonate (0.152 g, 0.32 mmol) and methylamine (0.100 g, 3.2 mmol). mp 144-145° C.

reactant | (±)-{[7-(2,5-dimethoxyphenyl)-5-methoxy-2,3-dihydro-1-benzofuran-2-yl]methyl}4-methylbenzenesulfonate | 0.32 mmol, 0.152 g | COC1=C(C=C(C=C1)OC)C1=CC(=CC=2CC(OC21)COS(=O)(=O)C2=CC=C(C=C2)C)OC | C25H26O7S
reactant | methylamine | 3.2 mmol, 0.100 g | CN | CH5N
product | (±)-{[7-(2,5-dimethoxyphenyl)-5-methoxy-2,3-dihydro-1-benzofuran-2-yl]methyl}methylamine | COC1=C(C=C(C=C1)OC)C1=CC(=CC=2CC(OC21)CNC)OC | C19H23NO4
